US07790720B2
A suspension of delta-valerolactam (0.14 g, 1.4 mmol, 1 eq) and sodium hydride (60% dispersion in mineral oil, 0.056 g, 1.4 mmol, 1 eq) in N,N-dimethylformamide (10 ml) is cooled to 0° C. and treated with 4-(chloromethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole ax57 (0.4 g, 1.4 mmol, 1 eq). The mixture is then stirred at room temperature. After 20 h, the solvent is evaporated, the residue is taken up in ethyl acetate and washed two times with an aqueous solution of sodium hydrogenocarbonate. The organic layer is dried over magnesium sulfate, filtered and concentrated under vacuum to give 0.58 g of 1-({2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}methyl)piperidin-2-one i55 immediately engaged in the next step without any further purification.

reactant | delta-valerolactam | 1.4 mmol, 0.14 g, 1 eq | C1(CCCCN1)=O | C5H9NO
reactant | sodium hydride | 1.4 mmol, 0.056 g, 1 eq | [H-].[Na+]
reactant | 4-(chloromethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole | ClCC=1N=C(OC1)C1=CC=C(C=C1)OCCCCl | C13H13Cl2NO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-({2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}methyl)piperidin-2-one | 0.58 g | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)CN1C(CCCC1)=O | C18H21ClN2O3
